US07199135B2
N-{5-[1-(3-{[bis(4-fluorophenyl)acetyl]amino}propyl)-4-piperidinyl]-3-pyridinyl}-2-methyl propanamide:
Example 172 was prepared from N-(3-bromopropyl)-2,2-bis(4-fluoro phenyl) acetamide and 2-methyl-N-[5-(4-piperidinyl)-3-pyridinyl]propanamide according to the procedures described in Scheme 14: 1H NMR (400 MHz, CDCl3) δ 8.39 (s, 1 H), 8.19 (s, 1 H), 8.17 (S, 1 H), 7.95 (s, 1 H), 7.31–7.20 (m, 5 H), 7.04–6.94 (m, 4 H), 4.82 (s, 1 H), 3.46–3.35 (m, 2 H), 2.98–2.92 (m, 2 H), 2.62–2.48 (m, 2 H), 2.48–2.38 (m, 2 H), 2.09–1.95 (m, 2 H), 1.87–1.76 (m, 2 H), 1.76–1.55 (m, 4 H), 1.25 (d, 6 H, J=7.6 Hz); ESMS m/e: 535.4 (M+H)+.

reactant | N-(3-bromopropyl)-2,2-bis(4-fluoro phenyl) acetamide | BrCCCNC(C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C17H16BrF2NO
reactant | 2-methyl-N-[5-(4-piperidinyl)-3-pyridinyl]propanamide | CC(C(=O)NC=1C=NC=C(C1)C1CCNCC1)C | C14H21N3O
product | N-{5-[1-(3-{[bis(4-fluorophenyl)acetyl]amino}propyl)-4-piperidinyl]-3-pyridinyl}-2-methyl propanamide | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=NC1)NC(C(C)C)=O)C1=CC=C(C=C1)F | C31H36F2N4O2
